US07947689B2
2,2,2-Trifluoro-N-(2-thiophen-2-yl-ethyl)-acetamide
In close analogy to the procedure described above, 2-Thiophen-2-yl-ethylamine is reacted with ethyl trifluoracetate to provide the. title compound.

reactant | 2-Thiophen-2-yl-ethylamine | S1C(=CC=C1)CCN | C6H9NS
reactant | ethyl trifluoracetate | FC(C(=O)OCC)(F)F | C4H5F3O2
product | 2,2,2-Trifluoro-N-(2-thiophen-2-yl-ethyl)-acetamide | Yield: 86% | FC(C(=O)NCCC=1SC=CC1)(F)F | C8H8F3NOS
